US04122260
7-[[(2-Formyl-1-pyrryl)acetyl]amino]-7-methoxy-3-methyl-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid
A solution of (2-formyl-1-pyrryl)acetic acid (0.02 m) and triethylamine (0.02 m) in tetrahydrofuran (THF) is cooled to 0° C. While stirring, isobutyl chloroformate (0.02 m) is added and the temperature is maintained at 0° C for 15 minutes. A cold solution of 7-amino-3-methyl-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid (0.02 m) and triethylamine (0.02 m) in 50% aqueous THF is added to the previous solution with stirring.

reactant | (2-formyl-1-pyrryl)acetic acid | C(=O)C=1N(C=CC1)CC(=O)O | C7H7NO3
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 7-amino-3-methyl-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | NC1C2SCC(=C(N2C1=O)C(=O)O)C | C8H10N2O3S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 7-[[(2-Formyl-1-pyrryl)acetyl]amino]-7-methoxy-3-methyl-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | C(=O)C=1N(C=CC1)CC(=O)NC1(C2SCC(=C(N2C1=O)C(=O)O)C)OC | C16H17N3O6S
